US07700591B2
A cooled (0° C.) solution of N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-(1-hydroxyethyl)-3-oxocyclopentanecarboxamide (6.27 g, 15.6 mmol) in methanol was treated with sodium borohydride (591 mg, 15.6 mmol) and stirred for 20 min. The reaction mixture was concentrated and the residue was partitioned between DCM and water. The organic layer was washed with brine, dried over anhydrous MgSO4, filtered, and concentrated to give N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-3-hydroxy-1-(1-hydroxyethyl)cyclopentanecarboxamide as a mixture of 8 isomers.

reactant | N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-1-(1-hydroxyethyl)-3-oxocyclopentanecarboxamide | 15.6 mmol, 6.27 g | C(C)(C)(C)OC1=C(CNC(=O)C2(CC(CC2)=O)C(C)O)C=C(C=C1)C(F)(F)F | C20H26F3NO4
reactant | sodium borohydride | 15.6 mmol, 591 mg | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | N-[2-tert-butoxy-5-(trifluoromethyl)benzyl]-3-hydroxy-1-(1-hydroxyethyl)cyclopentanecarboxamide | C(C)(C)(C)OC1=C(CNC(=O)C2(CC(CC2)O)C(C)O)C=C(C=C1)C(F)(F)F | C20H28F3NO4
